US06518423B1
N-(10-methoxymethyl-10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl) chloro-acetamide
1.25 g of 8-aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine and 0.7 ml of triethylamine were dissolved in N,N-dimethylformamide (15 ml). Under ice-cooling, 2 ml of a solution of 0.4 ml of chloroacetyl chloride in dichloromethane was dropped thereinto and the resulting mixture was stirred for 1 hour. After adding water, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After concentrating under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate). The crystals thus obtained were washed with n-hexane and thus 1.28 g of the title compound was obtained as a yellow powder.

reactant | 8-aminomethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 1.25 g | NCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H14N4OS
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.4 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(10-methoxymethyl-10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl) chloro-acetamide | 1.28 g | COCN1C2=C(SC3=C1C=C(C=C3)CNC(CCl)=O)N=CC=N2 | C15H15ClN4O2S
